US08871934B2
3-hydroxy-indeno[1,2-b]pyridin-5-one
Under an argon atmosphere, 3-methoxy-indeno[1,2-b]pyridin-5-one (0.545 g) and pyridinium chloride (5.89 g) were mixed with pyridine (1.0 ml). The reaction mixture was stirred with heating at 180° C. for 30 min while evaporating pyridine, and further stirred with heating at 200° C. for 4 hr. The mixture was cooled to room temperature, water was added and the mixture was stirred for 30 min. This slurry was filtered, and the obtained solid was dried under reduced pressure to give the title compound (0.054 g). The obtained solid was used for the next reaction without further purification.

reactant | 3-methoxy-indeno[1,2-b]pyridin-5-one | 0.545 g | COC=1C=C2C(=NC1)C1=CC=CC=C1C2=O | C13H9NO2
reactant | pyridinium chloride | 5.89 g | [Cl-].[NH+]1=CC=CC=C1
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | 3-hydroxy-indeno[1,2-b]pyridin-5-one | 0.054 g | OC=1C=C2C(=NC1)C1=CC=CC=C1C2=O | C12H7NO2
